US04609733
A mixture of 15.0 of 3-(1-oxo-4-ethoxycarbonylbutyl)-N-(3-pyridyl)indole, 100 ml of 0.5N sodium hydroxide is heated under reflux for 16 hours. The solution is acidified to pH of about 6 with hydrochloric and extracted with methylene chloride. The methylene chloride extract is dried over sodium sulfate and evaporated to dryness to give 3-(1-oxo-4-carboxybutyl)-N-(3-pyridyl)-indole, melting point 177°-178°.

reactant | 3-(1-oxo-4-ethoxycarbonylbutyl)-N-(3-pyridyl)indole | O=C(CCCC(=O)OCC)C1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C20H20N2O3
solvent | sodium hydroxide | 0.5N, 100 ml | [OH-].[Na+]
product | 3-(1-oxo-4-carboxybutyl)-N-(3-pyridyl)-indole | O=C(CCCC(=O)O)C1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C18H16N2O3
